US03989841
7-Nitro-α-methylfluorene-2-acetic acid
A suspension of α-methylfluorene-2-acetic acid (11.9 g) in acetic acid (10 ml) is stirred and heated to 60°, and then treated dropwise with concentrated nitric acid (12.7 ml) over a 0.5 hour period. The temperature is kept at 80° by cooling. After the addition is completed, the mixture is heated at 80° for 15 minutes then cooled. The crystalline material is collected by filtration to give 7.5 g, mp 206°-209° of the titled product. The analytical sample is prepared by recrystallization from acetic acid, mp 215°-216°.

reactant | α-methylfluorene-2-acetic acid | 11.9 g | CC(C(=O)O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C16H14O2
reactant | nitric acid | 12.7 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-Nitro-α-methylfluorene-2-acetic acid | 7.5 g | [N+](=O)([O-])C1=CC=C2C=3C=CC(=CC3CC2=C1)C(C(=O)O)C | C16H13NO4
